US08754118B2
Methyl 4-methyl-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate (1.4 g, 4.9 mmol) was dissolved in methanol (12 mL), and a 5 M aqueous sodium hydroxide solution (10 mL) was added thereto, and the resulting mixture was heated under reflux for 3 hours. After the mixture was cooled to room temperature, formic acid (5 mL) was added thereto to stop the reaction. After the mixture was concentrated under reduced pressure, water (10 mL) was added thereto to suspend the resulting residue. The precipitated solid was collected by filtration and washed 3 times with water. The obtained solid was dried under reduced pressure, whereby 4-methyl-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid (1.1 g, 83%) was obtained as a solid. The thus obtained solid was suspended in dichloromethane (10 mL), oxalyl chloride (0.86 mL, 10 mmol) was added thereto, and the resulting mixture was stirred at room temperature for 2 hours. After the mixture was concentrated under reduced pressure, the residue was dissolved in tetrahydrofuran (10 mL), and 4-(methylsulfonyl)aniline hydrochloride (1.0 g, 4.9 mmol) and N,N-diisopropylethylamine (2.8 mL, 16 mmol) were sequentially added to the solution, and the resulting mixture was heated under reflux for 18 hours. After the mixture was cooled to room temperature, the solvent was distilled off under reduced pressure, and acetonitrile (10 mL) and 3 M hydrochloric acid (100 mL) were added to the residue. A precipitated solid was triturated, collected by filtration and washed with water, and then, dried under reduced pressure, whereby 4-methyl-N-[4-(methylsulfonyl) phenyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide (1.4 g, 89%) was obtained as a solid.

reactant | Methyl 4-methyl-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylate | 4.9 mmol, 1.4 g | CC=1C(=CNC1C1=C(C=CC=C1)C(F)(F)F)C(=O)OC | C14H12F3NO2
reactant | sodium hydroxide | 5 M, 10 mL | [OH-].[Na+]
reactant | formic acid | 5 mL | C(=O)O | CH2O2
solvent | methanol | 12 mL | CO | CH4O
product | 4-methyl-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxylic acid | 1.1 g, 83% | CC=1C(=CNC1C1=C(C=CC=C1)C(F)(F)F)C(=O)O | C13H10F3NO2
